US05122523
21 mg of (2RS,3RS,4S)-4-(tert-butoxycarbonyl)amino-1-isopropylthio-6-methyl-2,3-heptanediol was dissolved in 0.3 ml of dioxane, and 0.32 ml of a 3.6M hydrogen chloride/dioxane solution was added thereto. The mixture was stirred at room temperature for 4 hours. The solvent was distilled off under reduced pressure from the reaction solution to obtain 16.9 mg of (2RS,3RS,4S)-4-amino-1-isopropylthio-6-methyl-2,3-heptanediol hydrochloride as colorless oily substance.

reactant | (2RS,3RS,4S)-4-(tert-butoxycarbonyl)amino-1-isopropylthio-6-methyl-2,3-heptanediol | 21 mg | C(C)(C)(C)OC(=O)N[C@H](C(C(CSC(C)C)O)O)CC(C)C | C16H33NO4S
reactant | hydrogen chloride dioxane | 3.6M | Cl.O1CCOCC1
solvent | dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
product | (2RS,3RS,4S)-4-amino-1-isopropylthio-6-methyl-2,3-heptanediol hydrochloride | 16.9 mg | Cl.N[C@H](C(C(CSC(C)C)O)O)CC(C)C | InChI=1S/C11H25NO2S.ClH/c1-7(2)5-9(12)11(14)10(13)6-15-8(3)4;/h7-11,13-14H,5-6,12H2,1-4H3;1H/t9-,10?,11?;/m0./s1
